US09376436B2
To a stirred solution of 3-bromo-4-methyl-phenol (1.2 g, 6.42 mmol) in anhydrous DMF (12 mL), was added iodoethane (1.55 mL, 19.25 mmol) and potassium carbonate (1.06 g, 7.7 mmol). The resulting mixture was left to stir at 80° C. for 18 h. It was allowed to cool to room temperature, poured into brine and extracted with ethyl acetate. The combined organic layers were dried over sodium sulphate and filtered. The filtrate was evaporated and the crude residue was purified by silica gel chromatography (25 g SiO2) eluting with iso-hexane. Evaporation of desired fractions gave 2-bromo-4-ethoxy-1-methyl-benzene (D64) (0.7500 g, 3.4869 mmol, 54.3% yield) as colourless oil;

reactant | 3-bromo-4-methyl-phenol | 6.42 mmol, 1.2 g | BrC=1C=C(C=CC1C)O | C7H7BrO
reactant | iodoethane | 19.25 mmol, 1.55 mL | ICC | C2H5I
reactant | potassium carbonate | 7.7 mmol, 1.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-bromo-4-ethoxy-1-methyl-benzene | 3.4869 mmol, 0.7500 g, 54.3% yield | BrC1=C(C=CC(=C1)OCC)C | C9H11BrO
